US08003811B2
Step G: (S)-((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl) 5,6-bis(nitrooxy)hexanoate
To a solution of (5S)-((3R,3aR,6R,6aR)-6-(tetrahydro-2H-pyran-2-yloxy)hexahydrofuro[3,2-b]furan-3-yl) 5,6-bis(nitrooxy)hexanoate (2.27 g, 5.04 mmol) in ethanol (40 mL) pyridinium p-toluensulfonate (127 mg, 0.504 mmol) was added The reaction mixture was stirred at 45° C. for 4 hrs. The reaction mixture was filtered, concentrated under reduced pressure. The crude residue was purified by flash chromatography (Biotage SP1, EtOAc/n-hexane from 10 to 60%), affording the title product as pale yellow oil.

reactant | (5S)-((3R,3aR,6R,6aR)-6-(tetrahydro-2H-pyran-2-yloxy)hexahydrofuro[3,2-b]furan-3-yl) 5,6-bis(nitrooxy)hexanoate | 5.04 mmol, 2.27 g | [N+](=O)([O-])O[C@@H](CCCC(=O)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC2OCCCC2)CO[N+](=O)[O-] | C17H26N2O12
reactant | ethanol | 0.504 mmol, 40 mL, 127 mg | C(C)O | C2H6O
product | (S)-((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl) 5,6-bis(nitrooxy)hexanoate | [N+](=O)([O-])O[C@@H](CCCC(=O)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O)CO[N+](=O)[O-] | C12H18N2O11
